US07935722B2
N-(6-Cyano-9-thiophen-3-ylmethyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide
Add sequentially to a slurry of N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide (Preparation 3) (100 mg, 0.36 mmol) in THF (2 mL) at 0° C.: trimethylphosphine (1.0 M in toluene, 530 μL, 0.53 mmol), 3-thiophenemethanol (61 mg, 50 μL, 0.53 mmol), and 1,1′-(azodicarbonyl)-dipiperidine (ADDP, 134 mg, 0.53 mmol). Warm up to room temperature and stir in a sealed vial for 18 h. Evaporate the reaction solvent and dissolve the residue in EtOAc (5 ML). Add water (2 mL) and load onto a Varian Chem Elut CE1005 solid-phase extraction cartridge (Varian part number 12198006). Elute with EtOAc, collect, and concentrate (about 50 mL). Purify the crude product on silica gel (12 g) eluting with 30-90% EtOAc/hexanes to give the title compound in 11% yield as a colorless oil. MS (ES): m/z 378 (M+1), 376 (M−1); 1H NMR (CDCl3): δ 7.81 (s, 1H), 7.40 (dd, 1H, J=8.4, 1.2 Hz), 7.33 (d, 1H, J=8.4 Hz), 7.30 (m, 1H), 6.86-6.81 (m, 2H), 5.60 (d, 1H, J=7.5 Hz), 5.29 (s, 2H), 4.41 (m, 1H), 3.16 (dd, 1H, J=15.2, 5.1 Hz), 2.90-2.72 (m, 2H), 2.63 (dd, 1H, J=15.4, 7.5 Hz), 2.36 (m, 1H), 2.16 (m, 1H), 2.02 (m, 1H), 1.18 (dd, 7H, J=6.8, 3.7 Hz), 1.18 (dd, 6H, J=6.8, 3.7 Hz).

reactant | N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 0.36 mmol, 100 mg | C(#N)C=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C17H19N3O
reactant | trimethylphosphine | 0.53 mmol, 1.0 M, 530 μL | CP(C)C | C3H9P
reactant | 3-thiophenemethanol | 0.53 mmol, 50 μL, 61 mg | S1C=C(C=C1)CO | C5H6OS
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 0.53 mmol, 134 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(6-Cyano-9-thiophen-3-ylmethyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 11% yield | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=CSC=C1)NC(C(C)C)=O | C22H23N3OS
